US07230011B2
5-Methoxy-6-fluoro-1H-indole
A solution of sodium ethoxide (formed by dissolving NaH 11.45 g, 60% in oil, 286.2 mmol, 4 eq.) in ethanol was poured into an EtOH solution of (5-fluoro-4-methoxy-2-trimethylsilanylethynyl-phenyl)-carbamic acid ethyl ester (22.14 g, 71.55 mmol) in EtOH (250 mL). The reaction was allowed to stir at room temperature for 2 hours and heated to 75° C. overnight. The EtOH was removed in vacuo and the residue diluted with water. The aqueous suspension was extracted 2×300 mL with Et2O. The organics were combined and washed with brine. The organic layer was collected, dried over MgSO4, filtered, and the solvent removed in vacuo leaving a dark red oil. The oil was purified by silica gel flash column chromatography using 15% EtOAc in hexanes as the mobile phase. Removal of the solvent in vacuo from the fractions containing the product left a golden yellow oil which solidified on standing: 1H NMR (300 MHz, CDCl3): 3.93 (s, 3H), 6.48 (m, 1H), 7.15 (m, 3H), 8.11 (bs, 1H); MS(ES+): m/z 166 (M+H)+; MS(ES−): m/z 164 (M−H)−; Calculated for C9H8FNO: C, 65.45; H, 4.88; N, 8.48; found: C, 65.17; H, 4.97; N, 8.70.

reactant | sodium ethoxide | 286.2 mmol, 11.45 g, 4 eq. | [O-]CC.[Na+]
reactant | (5-fluoro-4-methoxy-2-trimethylsilanylethynyl-phenyl)-carbamic acid ethyl ester | 71.55 mmol, 22.14 g | C(C)OC(NC1=C(C=C(C(=C1)F)OC)C#C[Si](C)(C)C)=O | C15H20FNO3Si
solvent | ethanol | C(C)O | C2H6O
solvent | EtOH | 250 mL | CCO | C2H6O
product | 5-Methoxy-6-fluoro-1H-indole | COC=1C=C2C=CNC2=CC1F | C9H8FNO
